US07488733B2
2-(Cyclopentylmethyl)-6-oxo-4-(3-pyridinylamino)-1,6-dihydro-5-pyrimidinecarbonitrile
0.1 g (0.40 mmol) of methyl 2-cyano-3-(methylsulfanyl)-3-(3-pyridinylamino)-2-propenoate and 0.065 g (0.40 mmol) of 2-cyclopentylethanamidine hydrochloride and 0.16 g (1.60 mmol) of triethylamine are dissolved in 0.5 ml of DMF and stirred at 100° C. overnight. After cooling, the mixture is diluted with 10 ml of water and extracted with dichloromethane. The organic phase is dried over sodium sulfate and concentrated in vacuo, and the residue is purified by flash chromatography (mobile phase: dichloromethane/methanol 200:1, 100:1, 50:1). 78 mg (64% of theory) of the product are obtained as a colorless solid.

reactant | methyl 2-cyano-3-(methylsulfanyl)-3-(3-pyridinylamino)-2-propenoate | 0.40 mmol, 0.1 g | C(#N)C(C(=O)OC)=C(NC=1C=NC=CC1)SC | C11H11N3O2S
reactant | 2-cyclopentylethanamidine hydrochloride | 0.40 mmol, 0.065 g | Cl.C1(CCCC1)CC(=N)N
reactant | triethylamine | 1.60 mmol, 0.16 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-(Cyclopentylmethyl)-6-oxo-4-(3-pyridinylamino)-1,6-dihydro-5-pyrimidinecarbonitrile | C1(CCCC1)CC=1NC(C(=C(N1)NC=1C=NC=CC1)C#N)=O | C16H17N5O
